US04144338
Following the procedure of Example 1, Part A 2-acetamido-4-methyl-6-dimethylaminopyrimidine and 2-dimethylaminoethyl chloride hydrochloride, 2-(2-dimethylaminoethylamino)-4-methyl-6-dimethylaminopyrimidine is obtained with a boiling point of 120°-124° C. at 0.03 mm.

reactant | 2-acetamido-4-methyl-6-dimethylaminopyrimidine | C(C)(=O)NC1=NC(=CC(=N1)C)N(C)C | C9H14N4O
reactant | 2-dimethylaminoethyl chloride hydrochloride | Cl.CN(CCCl)C
product | 2-(2-dimethylaminoethylamino)-4-methyl-6-dimethylaminopyrimidine | CN(CCNC1=NC(=CC(=N1)C)N(C)C)C | C11H21N5
